data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2106,2337,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([O+:18]=[C:19]([C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]([C:20](=[O:21])[O:22][CH3:23])([C:24](=[O:25])[O:26][CH3:27])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:28]([CH3:29])=[O:30],water,298.15,14.70781249469712,-36.8729215930149
3973,4546,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[NH:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,26.092750324122147,-3.36428773856802
179,196,[CH3:12][C:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:13]([CH3:12])=[N:14][CH:15]3[C:16]([CH3:17])=[O:18],water,298.15,13.888384391792266,-54.13148683766112
104,120,[CH3:11][C:12]([CH3:13])=[N+:14]([CH3:15])[O-:16].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:12]([CH3:11])([CH3:13])[N:14]([CH3:15])[O:16]2,water,298.15,30.20508973733584,-9.55947959266715
1756,1944,[CH3:16][NH:17][C:18](=[O:19])[C:20]#[N+:21][C-:22]([C:23]#[N:24])[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]([CH3:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[C:22]([C:23]#[N:24])([C:25](=[O:26])[NH:27][CH3:28])[N:21]=[C:20]1[C:18]([NH:17][CH3:16])=[O:19],water,298.15,23.99574114541244,-28.195476372287622
5097,5786,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)=[N+:18]([CH3:19])[C-:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:20]([C:21]([CH3:22])=[O:23])([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[N:18]([CH3:19])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,45.68888219110836,-8.13508110623512
1018,1111,[CH3:12][O:13][C:14](=[O:15])[c-:16]1[nH+:17][c:18]([C:19]([CH3:20])=[O:21])[o:22][c:23]1=[O:24].[CH3:1][C:2](=[O:3])[CH:4]1[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][C:2](=[O:3])[CH:4]1[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[C:16]1([C:14]([O:13][CH3:12])=[O:15])[NH:17][C:18]2([C:19]([CH3:20])=[O:21])[O:22][C:23]1=[O:24],water,298.15,21.542094913347874,-17.277976617327244
4951,5637,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][C:18]1([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,9.280169960790143,-36.223113575765794
4598,5244,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[C:19]#[N:20])[C:21](=[O:22])[NH:23][CH3:24]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([C:19]#[N:20])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,23.8401388791821,-21.464147288996067
3375,3834,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[c-:12]1[nH+:13][c:14]([CH3:15])[o:16][c:17]1=[O:18]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:12]1([C:10]([CH3:9])=[O:11])[NH:13][C:14]2([CH3:15])[O:16][C:17]1=[O:18],water,298.15,25.61866059316205,8.450574821770429
4411,5043,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][O+:12]=[C:13]([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([O:8][CH3:7])=[O:10])[O:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,14.18629005685857,-41.06882354131192
